US05624943
11 mg of bis-triphenylphosphine-palladium(II) chloride and 1.5 mg of copper(I) iodide are added to a solution of 300 mg of 3-{6-iodo-3-[6-(4-methoxyphenyl)-(5E)-5-hexenyloxy]-2-pyridyl}-propionic acid methyl ester and 68 mg of 4-pentynoic acid methyl ester in 5 ml of triethylamine, and the mixture is stirred for 20 hours at room temperature. The reaction mixture is filtered, the filter residue is washed with ethyl acetate and the filtrate is concentrated by evaporation. The residue is taken up in water, shaken out with ethyl acetate, dried on sodium sulfate and concentrated by evaporation. The crude product is chromatographed on silica gel with hexane/0-10% ethyl acetate and for complete purification subjected to high-pressure liquid chromatography on reversed-phase silica gel (Nova-Pak HR C18) with acetonitrile/water=75/25. 280 mg of 5-{2-(2-methoxycarbonylethyl)-3-[6-(4-methoxyphenyl)-(5E)-5-hexenyloxy]-6-pyridyl}-4-pentynoic acid methyl ester is obtained as colorless oil.

reactant | 3-{6-iodo-3-[6-(4-methoxyphenyl)-(5E)-5-hexenyloxy]-2-pyridyl}-propionic acid methyl ester | 300 mg | COC(CCC1=NC(=CC=C1OCCCC\C=C\C1=CC=C(C=C1)OC)I)=O | C22H26INO4
reactant | 4-pentynoic acid methyl ester | 68 mg | COC(CCC#C)=O | C6H8O2
solvent | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
catalyst | copper(I) iodide | 1.5 mg | [Cu]I
product | 5-{2-(2-methoxycarbonylethyl)-3-[6-(4-methoxyphenyl)-(5E)-5-hexenyloxy]-6-pyridyl}-4-pentynoic acid methyl ester | 280 mg | COC(CCC#CC1=CC=C(C(=N1)CCC(=O)OC)OCCCC\C=C\C1=CC=C(C=C1)OC)=O | C28H33NO6
